### PR TITLE
[Merged by Bors] - feat(Topology/UniformSpace/Path): new file

### PR DESCRIPTION
**Pull request by urkud**
---

- [x] depends on: #24066

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean [hunk 1]
```diff
@@ -391,4 +390,29 @@ instance instCompleteSpaceOfSequentialSpace [SequentialSpace α] :
...
+  have H₁ : ∀ x ∈ s, Inseparable (f x) (f' x) := fun x hx ↦ by
+    refine tendsto_nhds_unique_inseparable ?_ ((continuous_eval_const x).continuousAt.mono_left hf')
+    refine tendsto_const_nhds.congr' <| .filter_mono ?_ hlf
+    exact fun _ h ↦ (h hx).symm
+  have H₂ (x) : Inseparable (s.piecewise f f' x) (f' x) := by
+    by_cases hx : x ∈ s <;> simp [hx, H₁, Inseparable.refl]
+  set g : C(α, β) :=
+    ⟨s.piecewise f f', (continuous_congr_of_inseparable H₂).mpr <| map_continuous f'⟩
+  refine ⟨g, Set.piecewise_eqOn _ _ _, hf'.trans_eq ?_⟩
+  rwa [eq_comm, ← Inseparable, ← inseparable_coe, inseparable_pi]
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/CompactConvergence.lean:416]: Would the following be easier?

- use [ContinuousMap.isUniformInducing_comp](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/CompactConvergence.html#ContinuousMap.isUniformInducing_comp) to get that the obvious map `C(α, β) → C(α, SeparationQuotient β)` is a uniform inducing
- show that the image of your set is precisely `{g : C(α, SeparationQuotient β) | EqOn g (SeparationQuotient.mk \circ f) s}` using the same piecewise arguments
- conclude by [IsUniformInducing.isComplete_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/UniformEmbedding.html#IsUniformInducing.isComplete_iff)

File: Mathlib/Topology/UniformSpace/Path.lean [hunk 2]
```diff
@@ -0,0 +1,69 @@
...
+import Mathlib.Topology.UniformSpace.CompactConvergence
+import Mathlib.Topology.UniformSpace.HeineCantor
+import Mathlib.Topology.MetricSpace.Lipschitz
+import Mathlib.Topology.ContinuousMap.Interval
+
+/-!
+# Paths in uniform spaces
+
+In this file we define a `UniformSpace` structure on `Path`s
+between two points in a uniformspace
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Path.lean:16]:
```suggestion
between two points in a uniform space
```

File: Mathlib/Topology/UniformSpace/Path.lean [hunk 3]
```diff
@@ -0,0 +1,69 @@
...
+and prove that various functions associated with `Path`s are uniformly continuous.
+-/
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Path.lean:18]: In addition to saying that you define a uniform structure on paths, could you explain in the file-level docstring what this uniform structure is?

File: Mathlib/Topology/UniformSpace/Path.lean [hunk 4]
```diff
@@ -0,0 +1,69 @@
...
+theorem uniformContinuous (γ : Path x y) : UniformContinuous γ :=
+  CompactSpace.uniformContinuous_of_continuous <| map_continuous _
+
+/-- Extension of a path to the real line is a uniformly continuous function. -/
+theorem uniformContinuous_extend (γ : Path x y) : UniformContinuous γ.extend :=
+  γ.uniformContinuous.comp <| LipschitzWith.projIcc _ |>.uniformContinuous
+
+/-- Extension of a path to the real line is uniformly continuous in the path argument. -/
+theorem uniformContinuous_extend_left : UniformContinuous (Path.extend : Path x y → _) :=
+  have : Fact ((0 : ℝ) ≤ 1) := ⟨zero_le_one⟩
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Path.lean:42]: Hasn't this been registered as a global instance in current master? It's worth merging master and checking if this can be removed.

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean [hunk 5]
```diff
@@ -391,4 +390,29 @@ instance instCompleteSpaceOfSequentialSpace [SequentialSpace α] :
 
 end CompleteSpace
 
+/-- If `C(α, β)` is a complete space, then for any (possibly, discontinuous) function `f`
+and any set `s`, the set of functions `g : C(α, β)` that are equal to `f` on `s`
+is a complete set.
+
+Note that this set does not have to be a closed set.
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/CompactConvergence.lean:397]:
```suggestion
Note that this set does not have to be a closed set when `β` is not T0.
```
(Did I understand correctly what you mean?)

File: Mathlib/Topology/UniformSpace/Path.lean [hunk 6]
```diff
@@ -0,0 +1,69 @@
...
```
Comment (urkud) [inline Mathlib/Topology/UniformSpace/Path.lean:42]:
```suggestion
```

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Topology/UniformSpace/CompactConvergence.lean:459]: I've started this, but it doesn't seem to be much shorter/simpler. I would prefer to merge this proof, then update it in another PR.

File: Mathlib/Topology/UniformSpace/Path.lean [hunk 7]
```diff
@@ -0,0 +1,74 @@
...
+  .comap ((↑) : _ → C(I, X)) ContinuousMap.compactConvergenceUniformSpace
+
+theorem isUniformEmbedding_coe : IsUniformEmbedding ((↑) : Path x y → C(I, X)) where
+  comap_uniformity := rfl
+  injective := ContinuousMap.coe_injective'
+
+theorem uniformContinuous (γ : Path x y) : UniformContinuous γ :=
+  CompactSpace.uniformContinuous_of_continuous <| map_continuous _
+
+/-- Extension of a path to the real line is a uniformly continuous function. -/
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Path.lean]: This docstring is ambiguous, as it could also mean "the map from Path x y to functions on R, mapping gamma to gamma.extend, is uniformly continuous". Maybe phrase it as: given a path gamma, its extension gamma.extend to the real line is a continuous function

File: Mathlib/Topology/UniformSpace/Path.lean [hunk 8]
```diff
@@ -0,0 +1,74 @@
...
+theorem uniformContinuous_extend (γ : Path x y) : UniformContinuous γ.extend :=
+  γ.uniformContinuous.comp <| LipschitzWith.projIcc _ |>.uniformContinuous
+
+/-- Extension of a path to the real line is uniformly continuous in the path argument. -/
+theorem uniformContinuous_extend_left : UniformContinuous (Path.extend : Path x y → _) :=
+  ContinuousMap.projIccCM.uniformContinuous_comp_left.comp isUniformEmbedding_coe.uniformContinuous
+
+/-- If `U i` bounded by `p i` form a basis of entourages of `X`,
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Path.lean]: `bounded by p i` or `(conditionally on p i)`? There are already enough notions of boundedness in topology not to add another one :-)

File: Mathlib/Topology/UniformSpace/Path.lean [hunk 9]
```diff
@@ -0,0 +1,74 @@
...
+theorem _root_.Filter.HasBasis.uniformityPath {ι : Sort*} {p : ι → Prop} {U : ι → Set (X × X)}
+    (hU : (𝓤 X).HasBasis p U) :
+    (𝓤 (Path x y)).HasBasis p fun i ↦ {γ | ∀ t, (γ.1 t, γ.2 t) ∈ U i} :=
+  hU.compactConvergenceUniformity_of_compact.comap _
+
+theorem hasBasis_uniformity :
+    (𝓤 (Path x y)).HasBasis (· ∈ 𝓤 X) ({γ | ∀ t, (γ.1 t, γ.2 t) ∈ ·}) :=
+  (𝓤 X).basis_sets.uniformityPath
+
+theorem uniformContinuous_symm : UniformContinuous (Path.symm : Path x y → _) :=
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Path.lean]:
```suggestion
theorem uniformContinuous_symm : UniformContinuous (Path.symm : Path x y → Path y x) :=
```
Better help the reader, no?

File: Mathlib/Topology/UniformSpace/Path.lean [hunk 10]
```diff
@@ -0,0 +1,74 @@
...
+  hasBasis_uniformity.uniformContinuous_iff hasBasis_uniformity |>.mpr fun U hU ↦
+    ⟨U, hU, fun _ _ h x ↦ h (σ x)⟩
+
+theorem uniformContinuous_trans :
+    UniformContinuous (Path.trans : Path x y → Path y z → _).uncurry :=
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Path.lean]: ditto

**Comment by sgouezel** [comment]
bors r+
Thanks!
